US04876249
A mixture of 20.03 g (100 mmoles) of dodecanoic acid and 11.57 g (110) mmoles) of 2-amino-2-methyl-1,3propanediol in 10 ml of xylene was heated for 30 hours at 185°-190°C. with azeotropic removal of water. The reaction mixture was taken up in ethyl acetate and was washed with water to remove excess amino alcohol. The organic layer was dried, concentrated and the residue was distilled at 152°-155° C./ 1 mmHg to give 22.8 g (84.6%) of 4-hydroxymethyl-4-methyl-2-undecyl-2oxazoline.

reactant | dodecanoic acid | 100 mmoles, 20.03 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | 2-amino-2-methyl-1,3propanediol | NC(CO)(CO)C | C4H11NO2
reactant | water | O | H2O
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-hydroxymethyl-4-methyl-2-undecyl-2oxazoline | 22.8 g, 84.6% | OCC1(N=C(OC1)CCCCCCCCCCC)C | C16H31NO2
